US07435815B2
4-tert-Butyl-N-(1H-indazol-6-yl)-benzenesulfonamide
prepared by reaction of 1H-indazol-6-ylamine with 4-tert-butyl-benzenesulfonyl chloride

reactant | 1H-indazol-6-ylamine | N1N=CC2=CC=C(C=C12)N | C7H7N3
reactant | 4-tert-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-(1H-indazol-6-yl)-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C2C=NNC2=C1 | C17H19N3O2S
